US06573337B1
A mixture of galactose pentaacetate (38.00 g, 97.43 mmol), (ethylthio)trimethylsilane (19.60 g, 146.15 mmol) and trimethylsilyl trifluoromethanesulfonate (23.60 g, 106.20 mmol) in CH2Cl2 (150 ml) was stirred overnight at room temperature. The reaction mixture was diluted with CH2Cl2 (150 ml) and washed with 1M Na2CO3 solution (300 ml), water (300 ml), dried over MgSO4 and concentrated. The residue was crystallised from hexane/di-isopropyl ether 1:1 (v/v) to give ethyl 2,3,4,6-tetra-O-acetyl-1-thio-β-D-galactopyranoside (34.00 g, 89%).

reactant | galactose pentaacetate | 97.43 mmol, 38.00 g | C(C)(=O)O[C@@H](C=O)[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O | C16H22O11
reactant | (ethylthio)trimethylsilane | 146.15 mmol, 19.60 g | C(C)S[Si](C)(C)C | C5H14SSi
reactant | trimethylsilyl trifluoromethanesulfonate | 106.20 mmol, 23.60 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2,3,4,6-tetra-O-acetyl-1-thio-β-D-galactopyranoside | 34.00 g, 89% | C(C)(=O)O[C@H]1[C@H](SCC)O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H24O9S
